US04943580
To a stirred mixture of 4.13 parts of 2-[(1-methyl-4-piperidinyl)amino]-3H-imidazo[4,5-b]pyridine-3-ethanol and 90 parts of N,N-dimethylformamide were added 0.75 parts of a sodium hydride dispersion 50%. After stirring for 30 minutes at room temperature, 1.7 parts of 2-chloropyrimidine were added. The whole was stirred for 1 hour at room temperature and the reaction mixture was poured into water. The product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 1.7 parts (32.0%) of N-(1-methyl-4-piperdinyl)-3-[2-(2-pyrimidinyloxy)ethyl]-3H-imidazo[4,5-b]-pyridin-2-amine; mp. 158.1° C. (compound 168).

reactant | 2-[(1-methyl-4-piperidinyl)amino]-3H-imidazo[4,5-b]pyridine-3-ethanol | CN1CCC(CC1)NC1=NC=2C(=NC=CC2)N1CCO | C14H21N5O
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
solvent | water | O | H2O
product | N-(1-methyl-4-piperdinyl)-3-[2-(2-pyrimidinyloxy)ethyl]-3H-imidazo[4,5-b]-pyridin-2-amine | 32.0% | CN1CCC(CC1)NC1=NC=2C(=NC=CC2)N1CCOC1=NC=CC=N1 | C18H23N7O
